### PR TITLE
feat(LinearAlgebra/Matrix/SVD): Singular Value Decomposition of R or C Matrices

### PR DESCRIPTION
**Pull request by MohanadAhmed**
This file provides proves the SVD theorem which decomposes a real/complex matrix into left eigenvectors, singular values block diagonal matrix and right eigenvectors.

Any matrix A (M × N) with rank r = A.rank and  with elements in ℝ or ℂ fields can be decompsed into the product of three matrices:
$$A = USV$$
* The three matrices are defined as
  - $U$: an M × M matrix containing the left eigenvectors of the matrix
  - $S$: an M × N matrix with an r × r block in the upper left corner with nonzero singular values
  - $V$: an N × N matrix containing the right eigenvectors of the matrix
Note that
* $S$ is a block matrix $S = [S₁₁, S₁₂; S₂₁, S₂₂]$ with
  - $S₁₁$: a diagonal r × r matrix and
  - $S₁₂$ : r × (N - r) zero matrix, S₂₁ : (M - r) × r zero matrix and
  - $S₂₂$: (M - r) × (N - r) zero matrix
* $U$ is a block column matrix U = [U₁ U₂] with
  - $U₁$ : a M × r containing left eigenvectors with nonzero singular values.
  - $U₂$ : a M × (M - r) containing left eigenvectors with zero singular values.
* $V$ is a block column matrix V = [V₁ V₂] with
  - $V₁$ : a N × r containing right eigenvectors with nonzero singular values.
  - $V₂$ : a M × (M - r) containing right eigenvectors with zero singular values.

Since in mathlib the eigenvalues of hermitian matrices are defined in an "arbitrary" undetermined order, we begin by partition the singular values into zero and non-zero values. We partition the corresponding eigenvectors from AᴴA and AAᴴ using similar rearrangements. These are included in `SVD.svdReindex`. The basic API for Column and Row partitioned matrices is from `ColumnRowPartitioned`.

We then proceed to transfer some of the lemmas we need about eigenvector matrices (for example that they are unitary: i.e. inverse is conjugate transpose.). Note that since invertibility in mathlib is defined for square matrices while our matrices are partitioned i.e. N × (N₁ ⊕ N₂) and N ≃ (N ⊕ N₂), Lean cannot apply the Invertible definition. We workaround this were necessary.

Lemma `reduced_spectral_theorem` (`reduced_spectral_theorem'`) shows that AᴴA and AAᴴ, can be reduced to products containing only the non-zero singular eigenvectors. This is later used in proving the main SVD theroem. A few lemmas are provided about the invertibility of the non-zero singular values matrix: `svdσ_inv`, `σ_inv_μ_σ_inv_eq_one`, `IsUnit_det_svdσ`, `IsUnit_det_svdσ_mapK` and `svdσ_inv_mapK`.

To make relating left eigenvectors to right eigenvectors easier we define U₁ = AV₁σ⁻¹ while U₂ is obtained from the eigenvectors of (AAᴴ). This avoid a lengthy reindexing operation with many proofs. The vectors in U₂ have no such issue since they are multiplied by zero singular values anyway.

Co-authored-by: Mohanad Ahmed <m.a.m.elhassan@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/SVD/ColumnRowBlocks.lean [hunk 1]
```diff
@@ -0,0 +1,209 @@
...
+  funext i j
+  rw [fromRows, fromRows, fromBlocks]
+  cases i
+  all_goals simp only [of_apply, add_apply, Fintype.sum_sum_type, Sum.elim_inl, Sum.elim_inr,
+    mul_apply]
+
+/- Given that the index set N and the direct sum of the index sets N₁ and N₂ are in bijection then
+the matrix A : N × (N₁ ⊕ N₂) := Cols[A₁ A₂] is actually a "square". Hence, if its product with
+another matrix B : (N₁ ⊕ N₂) × N := Rows[B₁ B₂] matrix is one, the other matrix must be its inverse
+Mulitplication of a matrix by its inverse is commutative. -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SVD/ColumnRowBlocks.lean:144]: This should mention `Matrix.mul_eq_one_comm`

File: Mathlib/LinearAlgebra/Matrix/SVD/RankMulIsUnit.lean
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SVD/RankMulIsUnit.lean:1]: I think these results should go in the existing matrix rank file; and they might already exist there!

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/RankMulIsUnit.lean:1]: I presume you mean [this one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Matrix/Rank.html). according to my looking they are not there (I did this search earlier when the proof was in lean 3 and again when I moved my proof to lean 4)

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SVD/RankMulIsUnit.lean:1]: What I mean is that you should add your results below the existing results in that file!

File: Mathlib/LinearAlgebra/Matrix/SVD/KernelConjTransposeMul.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
...
+/-! # Kernel of the products of a Matrix Conjugate Transpose of a Matrix -/
+open Matrix BigOperators
+
+namespace Matrix
+variable {𝕂: Type}[IsROrC 𝕂][DecidableEq 𝕂]
+variable {m n p : Type}
+variable [Fintype m][DecidableEq m][Fintype n]
+variable [DecidableEq n][Fintype l][DecidableEq l]
+
+lemma conjTranspose_mul_self_eq_zero_iff (A: Matrix m n 𝕂):
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SVD/KernelConjTransposeMul.lean:18]: Does this generalize to `StarOrderedRing`?

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 3]
```diff
@@ -0,0 +1,100 @@
...
+
+lemma rank_eq_card_pos_eigs_conj_transpose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
+    A.rank = Fintype.card {i // (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} := by
+  rw[← rank_conjTranspose_mul_self, IsHermitian.rank_eq_card_non_zero_eigs]
+
+lemma rank_eq_card_pos_eigs_self_mul_conj_transpose (A: Matrix (Fin M) (Fin N) 𝕂) :
+    A.rank = Fintype.card {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} := by
+  rw[← rank_self_mul_conjTranspose, IsHermitian.rank_eq_card_non_zero_eigs]
+
+noncomputable def er (A: Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:38]: I don't understand the name of this def'n nor the names of the def'ns that follow it. Could you please expand the names?
Also, please add docstrings to all definitions.

File: Mathlib/LinearAlgebra/Matrix/SVD/KernelConjTransposeMul.lean (hunk 2 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/KernelConjTransposeMul.lean:18]: Yes. See #6587

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean (hunk 3 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean]: OK added some docstrings to the definitions

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conj_transpose_mul_self]
+  exact Equiv.trans em.symm  (Equiv.sumCongr (fin_rank_equiv_eigs_conjTranspose_mul_self A) eₙᵣ)
+
+/-- For matrix of size m × n nad rank A.rank : we have an equivalence relation between the elements
+of Fin (height) and the eigevalues of the matrix A⬝Aᴴ partitioned into
+- non-zero eigenvaules: (exactly A.rank) of them see `fin_rank_equiv_eigs_mul_conjTranspose`
+- zero eigenvaules: (exactly height - A.rank) of them -/
+noncomputable def equiv_fin_height_eigs_mul_conjTranspose (A: Matrix (Fin M) (Fin N) 𝕂) :
+    (Fin M) ≃ (Fin A.rank) ⊕ (Fin (M - A.rank)) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:69]: This looks like a special case of [`finSumFinEquiv`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Fin.html#finSumFinEquiv) to me, using `Fin.cast` to first turn `Fin M` into `Fin (A.rank + (M - A.rank))`

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:69]: Just for other people who pass by.!
Contrary to what eric says here, this is not a special case o `finSumFinEquiv`.  The permutation splitting `Fin (M)` is not any permutation. It must split the zero eigenvalues and and non-zero  eigenvalues alone. Instead of doing all the work in `{ i // eig \neq 0 }` and `{ i // eig = 0 }` we recast back to `Fin (A.rank)` and `Fin (M - A.rank)` which are a nicer interface for the API of the SVD and it matches more closely what people do on paper when proving SVD or using it in another proof.

Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:67]: I agree with Mohanad, the type might be the same but the value is different. `finSumFinEquiv` would send the first `r` values to the left part of the sum and the rest to the right. This is a more specific operation.

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 5]
```diff
@@ -0,0 +1,120 @@
...
+  simp only [ne_eq, EmbeddingLike.apply_eq_iff_eq, Sum.inr.injEq, h]
+
+lemma emz_inj (A: Matrix (Fin M) (Fin N) 𝕂) (i j: Fin (M - A.rank)) :
+    ¬ (i = j) → (equiv_fin_height_eigs_mul_conjTranspose A).symm (Sum.inr i) ≠
+      (equiv_fin_height_eigs_mul_conjTranspose A).symm (Sum.inr j) := by
+  intros h
+  simp only [ne_eq, EmbeddingLike.apply_eq_iff_eq, Sum.inr.injEq, h]
+
+
+end Matrix
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:120]:
```suggestion
  simp only [ne_eq, EmbeddingLike.apply_eq_iff_eq, Sum.inr.injEq, h]

end Matrix
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 6]
```diff
@@ -0,0 +1,120 @@
...
+    A.rank = Fintype.card {i // (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} := by
+  rw[← rank_conjTranspose_mul_self, IsHermitian.rank_eq_card_non_zero_eigs]
+
+lemma rank_eq_card_pos_eigs_self_mul_conj_transpose (A: Matrix (Fin M) (Fin N) 𝕂) :
+    A.rank = Fintype.card {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} := by
+  rw[← rank_self_mul_conjTranspose, IsHermitian.rank_eq_card_non_zero_eigs]
+
+/-- For matrix A of size m × n and rank A.rank : we have an equivalence relation between elements of
+Fin (A.rank) and the set non-zero eigenvalues of the matrix Aᴴ⬝A -/
+noncomputable def fin_rank_equiv_eigs_conjTranspose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:40]: Definitions should be in `camelCase`:
```suggestion
noncomputable def finRankEquivEigsConjTransposeMulSelf (A : Matrix (Fin M) (Fin N) 𝕂) :
```
(also for the other `def`s in this file)

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 7]
```diff
@@ -0,0 +1,120 @@
...
+    {i // (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (A.rank) :=
+  (Fintype.equivFinOfCardEq (rank_eq_card_pos_eigs_conj_transpose_mul_self A).symm)
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:42]: To match the name and the other definitions above and below, I'd put it in this direction: 
```suggestion
    Fin (A.rank) ≃ {i // (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} :=
  Fintype.equivFinOfCardEq (rank_eq_card_pos_eigs_conj_transpose_mul_self A)
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 8]
```diff
@@ -0,0 +1,120 @@
...
+
+lemma rank_eq_card_pos_eigs_conj_transpose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
+    A.rank = Fintype.card {i // (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} := by
+  rw[← rank_conjTranspose_mul_self, IsHermitian.rank_eq_card_non_zero_eigs]
+
+lemma rank_eq_card_pos_eigs_self_mul_conj_transpose (A: Matrix (Fin M) (Fin N) 𝕂) :
+    A.rank = Fintype.card {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} := by
+  rw[← rank_self_mul_conjTranspose, IsHermitian.rank_eq_card_non_zero_eigs]
+
+/-- For matrix A of size m × n and rank A.rank : we have an equivalence relation between elements of
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:38]: It's not an equivalence relation, but a type-theoretic object called an equivalence:
```suggestion
/-- For matrix A of size m × n and rank A.rank : we have an equivalence between elements of
```
Or you can use normal mathematical terminology:
```suggestion
/-- For matrix A of size m × n and rank A.rank : we have a bijection between elements of
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 9]
```diff
@@ -0,0 +1,120 @@
...
+Fin (A.rank) and the set non-zero eigenvalues of the matrix Aᴴ⬝A -/
+noncomputable def fin_rank_equiv_eigs_conjTranspose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
+    {i // (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (A.rank) :=
+  (Fintype.equivFinOfCardEq (rank_eq_card_pos_eigs_conj_transpose_mul_self A).symm)
+
+/-- For matrix A of size m × n and rank A.rank : we have an equivalence relation between elements of
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:44]: Please imagine I wrote the same suggestions as for the previous definition :)

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 10]
```diff
@@ -0,0 +1,120 @@
...
+Fin (A.rank) and the set non-zero eigenvalues of the matrix A⬝Aᴴ -/
+noncomputable def fin_rank_equiv_eigs_mul_conjTranspose (A: Matrix (Fin M) (Fin N) 𝕂) :
+    {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃ Fin (A.rank) :=
+  (Fintype.equivFinOfCardEq (rank_eq_card_pos_eigs_self_mul_conj_transpose A).symm)
+
+/-- For matrix of size m × n nad rank A.rank : we have an equivalence relation between the elements
+of Fin (width) and the eigevalues of the matrix Aᴴ⬝A partitioned into
+- non-zero eigenvaules: (exactly A.rank) of them see `fin_rank_equiv_eigs_conjTranspose_mul_self`
+- zero eigenvaules: (exactly width - A.rank) of them -/
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:53]:
```suggestion
/-- For matrix of size m × n and rank A.rank : we have an equivalence between the elements
of Fin n and the eigenvalues of the matrix Aᴴ⬝A, partitioned into
- non-zero eigenvalues: (exactly A.rank) of them, see `fin_rank_equiv_eigs_conjTranspose_mul_self`
- zero eigenvalues: (exactly n - A.rank) of them -/
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 11]
```diff
@@ -0,0 +1,120 @@
...
+noncomputable def equiv_fin_width_eigs_conjTranspose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
+    (Fin N) ≃ (Fin A.rank) ⊕ (Fin (N - A.rank)) := by
+  let em := Equiv.sumCompl (fun i =>  (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0)
+  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conj_transpose_mul_self]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:59]: It's probably fine to use `apply` here, but usually it's better to avoid constructing data in tactic mode:
```suggestion
  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) :=
    Fintype.equivFinOfCardEq
      by rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conj_transpose_mul_self]
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 12]
```diff
@@ -0,0 +1,120 @@
...
+noncomputable def equiv_fin_height_eigs_mul_conjTranspose (A: Matrix (Fin M) (Fin N) 𝕂) :
+    (Fin M) ≃ (Fin A.rank) ⊕ (Fin (M - A.rank)) := by
+  let em := Equiv.sumCompl (fun i =>  (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0)
+  let eᵣ' : {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃ Fin A.rank := by
+    apply Fintype.equivFinOfCardEq
+    rw [rank_eq_card_pos_eigs_self_mul_conj_transpose]
+  let eₘᵣ : {i // ¬(isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃
+    Fin (M - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_self_mul_conj_transpose]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:75]:
```suggestion
  let eᵣ' : {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃ Fin A.rank :=
    Fintype.equivFinOfCardEq
      by rw [rank_eq_card_pos_eigs_self_mul_conj_transpose]
  let eₘᵣ : {i // ¬(isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃
      Fin (M - A.rank) :=
    Fintype.equivFinOfCardEq
      by rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_self_mul_conj_transpose]
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 13]
```diff
@@ -0,0 +1,120 @@
...
+Fin (A.rank) and the set non-zero eigenvalues of the matrix A⬝Aᴴ -/
+noncomputable def fin_rank_equiv_eigs_mul_conjTranspose (A: Matrix (Fin M) (Fin N) 𝕂) :
+    {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃ Fin (A.rank) :=
+  (Fintype.equivFinOfCardEq (rank_eq_card_pos_eigs_self_mul_conj_transpose A).symm)
+
+/-- For matrix of size m × n nad rank A.rank : we have an equivalence relation between the elements
+of Fin (width) and the eigevalues of the matrix Aᴴ⬝A partitioned into
+- non-zero eigenvaules: (exactly A.rank) of them see `fin_rank_equiv_eigs_conjTranspose_mul_self`
+- zero eigenvaules: (exactly width - A.rank) of them -/
+noncomputable def equiv_fin_width_eigs_conjTranspose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:54]: Since we want to say many things about this definition, how about a shorter name, like:
```suggestion
noncomputable def eigenColumnEquiv (A: Matrix (Fin M) (Fin N) 𝕂) :
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 14]
```diff
@@ -0,0 +1,120 @@
...
+  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conj_transpose_mul_self]
+  exact Equiv.trans em.symm  (Equiv.sumCongr (fin_rank_equiv_eigs_conjTranspose_mul_self A) eₙᵣ)
+
+/-- For matrix of size m × n nad rank A.rank : we have an equivalence relation between the elements
+of Fin (height) and the eigevalues of the matrix A⬝Aᴴ partitioned into
+- non-zero eigenvaules: (exactly A.rank) of them see `fin_rank_equiv_eigs_mul_conjTranspose`
+- zero eigenvaules: (exactly height - A.rank) of them -/
+noncomputable def equiv_fin_height_eigs_mul_conjTranspose (A: Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:66]:
```suggestion
noncomputable def eigenRowEquiv (A: Matrix (Fin M) (Fin N) 𝕂) :
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 15]
```diff
@@ -0,0 +1,120 @@
...
+  let eₘᵣ : {i // ¬(isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃
+    Fin (M - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_self_mul_conj_transpose]
+  exact Equiv.trans em.symm  (Equiv.sumCongr eᵣ' eₘᵣ)
+
+/-- When the eigenvalues of the matrix Aᴴ⬝A are partitioned using
+`equiv_fin_width_eigs_conjTranspose_mul_self` i.e. into non-zero and zero eigenvalues, any element
+from the second partition is obivuosly zero! -/
+lemma enz_nr_zero (A: Matrix (Fin M) (Fin N) 𝕂) (i: Fin (N - A.rank)):
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:81]:
```suggestion
lemma eigen_eigenColumnEquiv_inr (A: Matrix (Fin M) (Fin N) 𝕂) (i: Fin (N - A.rank)):
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 16]
```diff
@@ -0,0 +1,120 @@
...
+    Equiv.sumCompl_apply_inr]
+  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conj_transpose_mul_self]
+  exact Iff.mp Function.nmem_support ((eₙᵣ.symm i).prop)
+
+/-- When the eigenvalues of the matrix A⬝Aᴴ are partitioned using
+`equiv_fin_height_eigs_mul_conjTranspose` i.e. into non-zero and zero eigenvalues, any element from
+the second partition is obivuosly zero! -/
+lemma emz_mr_zero (A: Matrix (Fin M) (Fin N) 𝕂) (i: Fin (M - A.rank)) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:95]:
```suggestion
lemma eigen_eigenRowEquiv_inr (A: Matrix (Fin M) (Fin N) 𝕂) (i: Fin (M - A.rank)) :
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 17]
```diff
@@ -0,0 +1,120 @@
...
+    rw [rank_eq_card_pos_eigs_self_mul_conj_transpose]
+  let eₘᵣ : {i // ¬(isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃
+    Fin (M - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_self_mul_conj_transpose]
+  exact Equiv.trans em.symm  (Equiv.sumCongr eᵣ' eₘᵣ)
+
+/-- When the eigenvalues of the matrix Aᴴ⬝A are partitioned using
+`equiv_fin_width_eigs_conjTranspose_mul_self` i.e. into non-zero and zero eigenvalues, any element
+from the second partition is obivuosly zero! -/
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:80]: How about making this a `simp` lemma?
```suggestion
from the second partition is obivuosly zero! -/
@[simp]
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 18]
```diff
@@ -0,0 +1,120 @@
...
+  simp only [ne_eq, Equiv.symm_trans_apply, Equiv.symm_symm, Equiv.coe_fn_symm_mk, Sum.elim_inr,
+    Equiv.sumCompl_apply_inr]
+  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conj_transpose_mul_self]
+  exact Iff.mp Function.nmem_support ((eₙᵣ.symm i).prop)
+
+/-- When the eigenvalues of the matrix A⬝Aᴴ are partitioned using
+`equiv_fin_height_eigs_mul_conjTranspose` i.e. into non-zero and zero eigenvalues, any element from
+the second partition is obivuosly zero! -/
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:94]:
```suggestion
the second partition is obivuosly zero! -/
@[simp]
```

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 19]
```diff
@@ -0,0 +1,120 @@
...
+  unfold equiv_fin_height_eigs_mul_conjTranspose Equiv.sumCongr
+  simp only [ne_eq, Equiv.symm_trans_apply, Equiv.symm_symm, Equiv.coe_fn_symm_mk, Sum.elim_inr,
+    Equiv.sumCompl_apply_inr]
+  let eₘᵣ : {i // ¬(isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃
+    Fin (M - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_self_mul_conj_transpose]
+  exact Iff.mp Function.nmem_support ((eₘᵣ.symm i).prop)
+
+lemma enz_inj (A: Matrix (Fin M) (Fin N) 𝕂) (i j: Fin (N - A.rank)) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:107]: I must say I don't see why we need `enz_inj` and `emz_inj`: injectivity of equivs and of `Sum.inr` is already known, so I'd prefer to use known injectivity results twice over this very specific application.

**Review by Vierkantor — COMMENTED** [review]
Here is my first round of feedback. I hope that soon I have time for the `Defs` file!

File: Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean [hunk 20]
```diff
@@ -0,0 +1,120 @@
...
+variable {𝕂: Type}[IsROrC 𝕂][DecidableEq 𝕂]
+variable {M N: ℕ}
+
+open Matrix BigOperators
+
+namespace Matrix
+
+open scoped ComplexOrder
+
+lemma rank_eq_card_pos_eigs_conj_transpose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/svdReindex.lean:30]: For the matrices of the form $A^HA$ and $AA^H$ we cannot have negative eigenvalues. These matrices are positive semidefinite. See [Matrix.posSemidef_self_mul_conjTranspose](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/PosDef.html#Matrix.posSemidef_self_mul_conjTranspose) and [Matrix.PosSemidef.eigenvalues_nonneg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/PosDef.html#Matrix.PosSemidef.eigenvalues_nonneg).

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 21]
```diff
@@ -0,0 +1,479 @@
...
+  (V_conjTranspose_mul_V A).2.1
+
+lemma V₁_conjTranspose_mul_V₂ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdV₁ᴴ * A.svdV₂ = 0 :=
+  (V_conjTranspose_mul_V A).2.2
+
+lemma V_inv (A : Matrix (Fin M) (Fin N) 𝕂) :
+    (fromColumns A.svdV₁ A.svdV₂)ᴴ  *  (fromColumns A.svdV₁ A.svdV₂) = 1 := by
+  rw [conjTranspose_fromColumns_eq_fromRows_conjTranspose, fromRows_mul_fromColumns,
+    V₁_conjTranspose_mul_V₂, V₁_conjTranspose_mul_V₁, V₂_conjTranspose_mul_V₂,
+    V₂_conjTranspose_mul_V₁, fromBlocks_one]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:194]: I suppose this is the statement that `V` is unitary. Could you add a similar result for `V * Vᴴ`?

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 22]
```diff
@@ -0,0 +1,479 @@
...
+lemma V₂_conjTranspose_mul_V₂ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdV₂ᴴ * A.svdV₂ = 1 :=
+  (V_conjTranspose_mul_V A).1.2
+
+lemma V₂_conjTranspose_mul_V₁ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdV₂ᴴ * A.svdV₁ = 0 :=
+  (V_conjTranspose_mul_V A).2.1
+
+lemma V₁_conjTranspose_mul_V₂ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdV₁ᴴ * A.svdV₂ = 0 :=
+  (V_conjTranspose_mul_V A).2.2
+
+lemma V_inv (A : Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:190]: Deleting `V_conjTranspose_mul_V` above will also allow us to use its name here:
```suggestion
lemma V_conjTranspose_mul_V (A : Matrix (Fin M) (Fin N) 𝕂) :
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 23]
```diff
@@ -0,0 +1,479 @@
...
+    (fromColumns A.svdV₁ A.svdV₂)ᴴ  *  (fromColumns A.svdV₁ A.svdV₂) = 1 := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:191]: Why not simply:
```suggestion
    A.svdVᴴ  *  A.sdvV = 1 := by
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 24]
```diff
@@ -0,0 +1,479 @@
...
+  rw [conjTranspose_fromColumns_eq_fromRows_conjTranspose, fromRows_mul_fromColumns,
+    V₁_conjTranspose_mul_V₂, V₁_conjTranspose_mul_V₁, V₂_conjTranspose_mul_V₂,
+    V₂_conjTranspose_mul_V₁, fromBlocks_one]
+
+lemma S_zero_blocks (A : Matrix (Fin M) (Fin N) 𝕂) :
+    A.svdS.toBlocks₁₂ = 0 ∧ A.svdS.toBlocks₂₁ = 0 ∧ A.svdS.toBlocks₂₂ = 0 := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:197]: Again here I'd split the conjunction into three theorems.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 25]
```diff
@@ -0,0 +1,479 @@
...
+  by_cases i = j
+  · unfold eigenRowEquiv Equiv.sumCongr
+    simp only [ne_eq, Equiv.symm_trans_apply, Equiv.symm_symm, Equiv.coe_fn_symm_mk, Sum.elim_inr,
+      Equiv.sumCompl_apply_inr]
+    simp_rw [h, diagonal_apply_eq]
+    apply eigen_eigenRowEquiv_inr
+  · simp only [diagonal_apply_ne, ne_eq, EmbeddingLike.apply_eq_iff_eq, Sum.inr.injEq, h]
+
+lemma S_σpos_block (A : Matrix (Fin M) (Fin N) 𝕂) :
+    A.svdS.toBlocks₁₁ = A.svdμ := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:227]: I don't know what `σpos` means in the name, why not copy the statement closely?
```suggestion
lemma S_toBlocks₁₁ (A : Matrix (Fin M) (Fin N) 𝕂) :
    A.svdS.toBlocks₁₁ = A.svdμ := by
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 26]
```diff
@@ -0,0 +1,479 @@
...
+  · rw [diagonal_apply_ne, of_apply, diagonal_apply_ne]
+    rw [ne_eq, EmbeddingLike.apply_eq_iff_eq, Sum.inl.injEq]
+    assumption'
+
+lemma S_block (A : Matrix (Fin M) (Fin N) 𝕂) :
+    (reindex
+      (eigenColumnEquiv A)
+      (eigenColumnEquiv A))
+        ( diagonal ( (isHermitian_transpose_mul_self A).eigenvalues)) =
+          fromBlocks A.svdμ 0 0 0 := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:265]: Isn't the left hand side exactly `A.svdS`? Then I would restate this (and the same for `S'`) as:
```suggestion
lemma fromBlocks_μ_zero_zero_zero (A : Matrix (Fin M) (Fin N) 𝕂) :
  fromBlocks A.svdμ 0 0 0 = A.svdS := by
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 27]
```diff
@@ -0,0 +1,479 @@
...
+lemma S'_block (A : Matrix (Fin M) (Fin N) 𝕂) :
+    (reindex
+      (eigenRowEquiv A)
+      (eigenRowEquiv A))
+        (diagonal ( (isHermitian_mul_conjTranspose_self A).eigenvalues)) =
+          fromBlocks A.svdμ' 0 0 0 := by
+  let hz := S'_zero_blocks A
+  rw [← svdS', ← fromBlocks_toBlocks (A.svdS'), ← S'_σpos_block, hz.1, hz.2.1, hz.2.2]
+
+lemma V_columns (A : Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:278]:
```suggestion
lemma reindex_eigenColumnEquiv_eigenvectorMatrix (A : Matrix (Fin M) (Fin N) 𝕂) :
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 28]
```diff
@@ -0,0 +1,479 @@
...
+      (isHermitian_transpose_mul_self A).eigenvectorMatrix =
+      fromColumns A.svdV₁ A.svdV₂ := by
+  rw [reindex_apply, fromColumns, svdV₁, svdV₂, toColumns₁, toColumns₂]
+  funext i j
+  cases' j with j j <;>
+  simp only [Equiv.refl_symm, Equiv.coe_refl, submatrix_apply, id_eq,
+    reindex_apply, of_apply, Sum.elim_inl, Sum.elim_inr]
+
+lemma reduced_spectral_theorem (A : Matrix (Fin M) (Fin N) 𝕂) :
+    Aᴴ  *  A = A.svdV₁  *  (A.svdμ.map (algebraMap ℝ 𝕂))  *  A.svdV₁ᴴ := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:289]: For decompositions we still follow the rule that the "more complicated expression" goes to the left. So:
```suggestion
    A.svdV₁  *  (A.svdμ.map (algebraMap ℝ 𝕂))  *  A.svdV₁ᴴ = Aᴴ  *  A := by
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 29]
```diff
@@ -0,0 +1,479 @@
...
+    (reindex (Equiv.refl (Fin N)) (eigenColumnEquiv A))
+      (isHermitian_transpose_mul_self A).eigenvectorMatrix =
+      fromColumns A.svdV₁ A.svdV₂ := by
+  rw [reindex_apply, fromColumns, svdV₁, svdV₂, toColumns₁, toColumns₂]
+  funext i j
+  cases' j with j j <;>
+  simp only [Equiv.refl_symm, Equiv.coe_refl, submatrix_apply, id_eq,
+    reindex_apply, of_apply, Sum.elim_inl, Sum.elim_inr]
+
+lemma reduced_spectral_theorem (A : Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:288]: We indicate theorems with a popularly known name by writing their name in bold above. So something like:
```suggestion
/-- **Reduced spectral theorem**, right eigenvector version. -/
lemma V₁_mul_μ_mul_V₁_conjTranspose (A : Matrix (Fin M) (Fin N) 𝕂) :
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 30]
```diff
@@ -0,0 +1,479 @@
...
+  rw [← diagonal_map, submatrix_map, ← reindex_apply, ← Equiv.coe_refl, ← Equiv.refl_symm,
+    ← reindex_apply, ←conjTranspose_submatrix, ← reindex_apply, S_block, V_columns,
+    conjTranspose_fromColumns_eq_fromRows_conjTranspose, fromBlocks_map, fromBlocks_mul_fromRows,
+    fromColumns_mul_fromRows]
+  simp only [map_zero, Matrix.map_zero, Matrix.zero_mul, add_zero, Matrix.mul_zero]
+  rw [Matrix.mul_assoc]
+  apply map_zero
+
+lemma reduced_spectral_theorem' (A : Matrix (Fin M) (Fin N) 𝕂) :
+    A  *  Aᴴ = A.svdU₁'  *  (A.svdμ'.map (algebraMap ℝ 𝕂))  *  A.svdU₁'ᴴ := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:311]: As above:
```suggestion
/-- **Reduced spectral theorem**, left eigenvector version. -/
lemma U₁'_mul_μ'_mul_U₁'_conjTranspose (A : Matrix (Fin M) (Fin N) 𝕂) :
    A.svdU₁'  *  (A.svdμ'.map (algebraMap ℝ 𝕂))  *  A.svdU₁'ᴴ = A  *  Aᴴ := by
```

Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:311]: If you want to keep `U₁'` around (see the comment on `U₁'`), could you also add the `U₁` (with no `'`) version?

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 31]
```diff
@@ -0,0 +1,479 @@
...
+  rw [Matrix.mul_assoc]
+  rw [map_zero]
+
+open scoped ComplexOrder
+lemma eig_vals_ne_zero_pos {m n: Type} [Fintype m] [Fintype n] [DecidableEq n]
+    (A : Matrix m n 𝕂) (z: {a // (isHermitian_transpose_mul_self A).eigenvalues a ≠ 0 }) :
+    0 < ((isHermitian_transpose_mul_self A).eigenvalues z) :=
+  lt_of_le_of_ne
+    (Matrix.PosSemidef.eigenvalues_nonneg (posSemidef_conjTranspose_mul_self _) _) -- 0 ≤ _
+    (z.prop.symm) -- 0 ≠ _
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:337]: It looks like you're using this result in two forms: 3 times showing the eigenvalue is not zero (but that's true by definition of `z`!) and 1 time showing that the eigenvalue is nonnegative. So I'd simply show that all eigenvalues of `A^H * A` are nonnegative, and rename to `eigenvalues_transpose_mul_self_nonneg`.

With those modifications, this belongs in an earlier file, probably soon after `Matrix.PosSemidef.eigenvalues_nonneg`.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 32]
```diff
@@ -0,0 +1,479 @@
...
+        1 / Real.sqrt ((isHermitian_transpose_mul_self A).eigenvalues i))) := by
+  apply inv_eq_right_inv
+  rw [svdσ]
+  simp only [ne_eq, reindex_apply, submatrix_diagonal_equiv, diagonal_mul_diagonal,
+    Function.comp_apply]
+  rw [← diagonal_one, diagonal_eq_diagonal_iff]
+  intros i
+  rw [mul_one_div_cancel]
+  apply ne_of_gt
+  apply (Real.sqrt_pos.2 (eig_vals_ne_zero_pos _ _))
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:353]: For example based on my remark on `eig_vals_ne_zero_pos`, this should simplify to something like (untested):
```suggestion
  apply Real.sqrt_ne_zero.mpr i.prop
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 33]
```diff
@@ -0,0 +1,479 @@
...
+lemma U₁_conjTranspose_mul_U₂ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdU₁ᴴ  *  A.svdU₂ = 0 := by
+  unfold svdU₁
+  simp_rw [conjTranspose_mul, Matrix.mul_assoc, conjTranspose_mul_U₂_eq_zero, Matrix.mul_zero]
+
+lemma U₂_conjTranspose_mul_U₁ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdU₂ᴴ  *  A.svdU₁ = 0 := by
+  rw [← conjTranspose_conjTranspose (A.svdU₁), ← conjTranspose_mul, U₁_conjTranspose_mul_U₂,
+    conjTranspose_zero]
+
+lemma U_inv (A : Matrix (Fin M) (Fin N) 𝕂) :
+  (fromColumns A.svdU₁ A.svdU₂)ᴴ * (fromColumns A.svdU₁ A.svdU₂) = 1 := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:445]: As for `V`:
* I suppose this is the statement that U is unitary. Could you add a similar result for `U * Uᴴ`?
```suggestion
lemma U_conjTranspose_mul_U (A : Matrix (Fin M) (Fin N) 𝕂) :
  A.svdUᴴ * A.svdU = 1 := by
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 34]
```diff
@@ -0,0 +1,479 @@
...
+  rw [conjTranspose_fromColumns_eq_fromRows_conjTranspose, fromRows_mul_fromColumns,
+    U₁_conjTranspose_mul_U₂, U₁_conjTranspose_mul_U₁, U₂_conjTranspose_mul_U₂,
+    U₂_conjTranspose_mul_U₁, fromBlocks_one]
+
+lemma V_conjTranspose_mul_inj (A : Matrix (Fin M) (Fin N) 𝕂) {m : Type} :
+    Function.Injective (fun x : Matrix m (Fin N) 𝕂 => x  *  (fromColumns A.svdV₁ A.svdV₂)) := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:451]: Why not simply:
```suggestion
    Function.Injective (fun x : Matrix m (Fin N) 𝕂 => x  * A.svdV) := by
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 35]
```diff
@@ -0,0 +1,479 @@
...
+  intro X Y h
+  replace h := congr_arg (fun x => x * (fromColumns A.svdV₁ A.svdV₂)ᴴ) h
+  dsimp at h
+  have V_inv' := V_inv A
+  rw [conjTranspose_fromColumns_eq_fromRows_conjTranspose, ← fromColumns_mul_fromRows_eq_one_comm,
+    ← conjTranspose_fromColumns_eq_fromRows_conjTranspose] at V_inv'
+  rwa [Matrix.mul_assoc, Matrix.mul_assoc, V_inv', Matrix.mul_one, Matrix.mul_one] at h
+  apply eigenColumnEquiv
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:459]: This is true for much more general reasons: if the matrix is square we could directly use [`IsUnit.mul_right_injective`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Units.html#IsUnit.mul_right_injective). So: could you prove the general statement `Matrix.mul_right_injective_of_inv` saying that `A * B = 1` implies the map `fun M => M * A` is injective, and the same on the left?

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 36]
```diff
@@ -0,0 +1,479 @@
...
+  rw [← conjTranspose_conjTranspose (A.svdU₁), ← conjTranspose_mul, U₁_conjTranspose_mul_U₂,
+    conjTranspose_zero]
+
+lemma U_inv (A : Matrix (Fin M) (Fin N) 𝕂) :
+  (fromColumns A.svdU₁ A.svdU₂)ᴴ * (fromColumns A.svdU₁ A.svdU₂) = 1 := by
+  rw [conjTranspose_fromColumns_eq_fromRows_conjTranspose, fromRows_mul_fromColumns,
+    U₁_conjTranspose_mul_U₂, U₁_conjTranspose_mul_U₁, U₂_conjTranspose_mul_U₂,
+    U₂_conjTranspose_mul_U₁, fromBlocks_one]
+
+lemma V_conjTranspose_mul_inj (A : Matrix (Fin M) (Fin N) 𝕂) {m : Type} :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:450]: I don't see a `conjTranspose` in the theorem?
```suggestion
lemma mul_V_injective (A : Matrix (Fin M) (Fin N) 𝕂) {m : Type} :
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 37]
```diff
@@ -0,0 +1,479 @@
...
+  intro X Y h
+  replace h := congr_arg (fun x => x * (fromColumns A.svdV₁ A.svdV₂)ᴴ) h
+  dsimp at h
+  have V_inv' := V_inv A
+  rw [conjTranspose_fromColumns_eq_fromRows_conjTranspose, ← fromColumns_mul_fromRows_eq_one_comm,
+    ← conjTranspose_fromColumns_eq_fromRows_conjTranspose] at V_inv'
+  rwa [Matrix.mul_assoc, Matrix.mul_assoc, V_inv', Matrix.mul_one, Matrix.mul_one] at h
+  apply eigenColumnEquiv
+
+/-- # Main SVD Theorem
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:461]: To make this easier to find:
```suggestion
/-- **Singular Value Decomposition Theorem**
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 38]
```diff
@@ -0,0 +1,479 @@
...
+into three matrices:
+  U: an M × M matrix containing the left eigenvectors of the matrix
+  S: an M × N matrix with an r × r block in the upper left corner with nonzero singular values
+  V: an N × N matrix containing the right eigenvectors of the matrix
+
+Note that UUᴴ = UᴴU = 1 and VVᴴ=VᴴV = 1 as can be seen in lemmas `U_inv` and `V_inv` together with
+`fromColumns_mul_fromRows_eq_one_comm` and `conjTranspose_fromColumns_eq_fromRows_conjTranspose` -/
+
+theorem svd_theorem (A : Matrix (Fin M) (Fin N) 𝕂) :
+    A = A.svdU  *  (fromBlocks (map A.svdσ (algebraMap ℝ 𝕂)) 0 0 0)  *  A.svdVᴴ := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:472]: As for `reduced_spectral_theorem`:
```suggestion
theorem U_mul_S_mul_V_conjTranspose (A : Matrix (Fin M) (Fin N) 𝕂) :
    A.svdU  *  A.svdS  *  A.svdVᴴ = A := by
```

**Review by Vierkantor — COMMENTED** [review]
Sorry for the intimidating amount of comments! You proved an important result, so I'd like to take the time to get this in the right shape.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 39]
```diff
@@ -0,0 +1,479 @@
...
+/-! # Singular Value Decomposition
+
+This file provides the SVD theorem which decomposes a real/complex matrix into left
+eigenvectors, singular values block diagonal matrix and right eigenvectors.
+
+Any matrix A (M × N) with rank r = A.rank and with elements in the field ℝ or ℂ can be decomposed
+into three matrices:
+  U: an M × M matrix containing the left eigenvectors of the matrix
+  S: an M × N matrix with an r × r block in the upper left corner with nonzero singular values
+  V: an N × N matrix containing the right eigenvectors of the matrix
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:20]: This will be formatted as markdown, so should be at least
```suggestion
  * U: an M × M matrix containing the left eigenvectors of the matrix
  * S: an M × N matrix with an r × r block in the upper left corner with nonzero singular values
  * V: an N × N matrix containing the right eigenvectors of the matrix
```
to prevent it all going on one line!

I'd also recommend you either write `M × N matrix` as lean code (`` `Matrix M N 𝕂` ``) or as LaTeX (`$M × N$ matrix`). Same for all the mathematical expressions in the comments.

File: Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean [hunk 40]
```diff
@@ -0,0 +1,105 @@
...
+    (Fin N) ≃ (Fin A.rank) ⊕ (Fin (N - A.rank)) := by
+  let en := Equiv.sumCompl (fun i =>  (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0)
+  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) :=
+    Fintype.equivFinOfCardEq (by rw [Fintype.card_subtype_compl, Fintype.card_fin,
+      rank_eq_card_pos_eigs_conj_transpose_mul_self])
+  exact Equiv.trans en.symm  (Equiv.sumCongr (finRankEquivEigsConjTransposeMulSelf A).symm eₙᵣ)
+
+/-- For matrix of size m × n and rank A.rank : we have an bijeciton between the elements
+of Fin (height) and the eigevalues of the matrix A⬝Aᴴ partitioned into
+- non-zero eigenvaules: (exactly A.rank) of them see `fin_rank_equiv_eigs_mul_conjTranspose`
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean:64]:
```suggestion
- non-zero eigenvalues: (exactly A.rank) of them see `fin_rank_equiv_eigs_mul_conjTranspose`
```
(this typo is in many places)

File: Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean [hunk 41]
```diff
@@ -0,0 +1,105 @@
...
+variable {𝕂: Type*} [IsROrC 𝕂] [DecidableEq 𝕂]
+variable {M N : ℕ}
+
+open Matrix BigOperators
+
+namespace Matrix
+
+open scoped ComplexOrder
+
+lemma rank_eq_card_pos_eigs_conj_transpose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean:30]:
```suggestion
lemma rank_eq_card_pos_eigs_conjTranspose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
```
and similarly throughout

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 42]
```diff
@@ -0,0 +1,479 @@
...
+
+variable {𝕂 : Type*} [IsROrC 𝕂] [DecidableEq 𝕂]
+variable {M N : ℕ}
+
+open Matrix BigOperators
+
+namespace Matrix
+
+/-- The right eigenvectors of a matrix A corresponding to its non-zero eigenvaules -/
+noncomputable def svdV₁ (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin N) (Fin (A.rank)) 𝕂 :=
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:67]: I prefer that the decomposed matrices be usable through the matrix. For example I want `A.svdV₁` to work. When I tried your suggestion of using a namespace I was not able to get this working. I had to use (Matrix.SVD.V₁ A). 

For example if you try this you will get an error 

```lean

variable {𝕂 : Type*} [IsROrC 𝕂] [DecidableEq 𝕂]
variable {M N : ℕ}

open Matrix BigOperators

namespace Matrix
namespace SVD
variable (A : Matrix (Fin M) (Fin N) 𝕂)

noncomputable def V₁ :  Matrix (Fin N) (Fin (A.rank)) 𝕂 :=
  ((reindex (Equiv.refl (Fin N)) (eigenColumnEquiv A))
    (isHermitian_transpose_mul_self A).eigenvectorMatrix).toColumns₁

noncomputable def U₁ := A.SVD.V₁

end SVD
end Matrix

```

The error says 
```
invalid field 'SVD', the environment does not contain 'Matrix.SVD'
  A
has type
  Matrix (Fin M) (Fin N) 𝕂
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 43]
```diff
@@ -0,0 +1,479 @@
...
+
+/-- The left eigenvectors of a matrix A corresponding to its non-zero eigenvaules, obtained directly
+from the eigendecomposition of the AAᴴ matrix. These do NOT share the same ordering as `svdU₁`. -/
+noncomputable def svdU₁' (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin M) (Fin (A.rank)) 𝕂 :=
+  ((reindex (Equiv.refl (Fin M)) (eigenRowEquiv A))
+    (isHermitian_mul_conjTranspose_self A).eigenvectorMatrix).toColumns₁
+
+/-- The left eigenvectors of a matrix A corresponding to its zero eigenvaules, obtained directly
+from the eigendecomposition of the AAᴴ matrix. The order of these eigenvectors is not relevatn as
+they are multiplied by zero anyway. Hence we do not have `svdU₂` -/
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:119]: It should have been "Hence we do not need to have `svdU₂'`" (with a dash/prime) on the U₂. In the definitions, I guess you noticed the asymmetry there is V1 V2 S S' U1 U1' U2.
But there is no `U2'` (with a dash/prime).

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 44]
```diff
@@ -0,0 +1,479 @@
...
+noncomputable def svdU₂ (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin M) (Fin (M - A.rank)) 𝕂 :=
+  ((reindex (Equiv.refl (Fin M)) (eigenRowEquiv A))
+    (isHermitian_mul_conjTranspose_self A).eigenvectorMatrix).toColumns₂
+
+/-- Concatenation of the left eigenvectors U₁ and U₂ into one eigenvector matrix. This is a unitary
+matrix. -/
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:125]: Yes but indirectly. They are unitary as in human maths but not Unitary by Mathlib's definition which requires a "square" matrix with the same indices used for the rows and columns

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 45]
```diff
@@ -0,0 +1,479 @@
...
+  (reindex (eigenRowEquiv A) (eigenRowEquiv A))
+    (diagonal (isHermitian_mul_conjTranspose_self A).eigenvalues)
+
+lemma U_columns' (A : Matrix (Fin M) (Fin N) 𝕂) :
+  ((reindex (Equiv.refl (Fin M)) (eigenRowEquiv A))
+    (isHermitian_mul_conjTranspose_self A).eigenvectorMatrix) = fromColumns A.svdU₁' A.svdU₂ := by
+  rw [svdU₂, svdU₁']
+  simp only [reindex_apply, Equiv.refl_symm, Equiv.coe_refl, fromColumns_toColumns]
+
+lemma V_conjTranspose_mul_V (A : Matrix (Fin M) (Fin N) 𝕂) :
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:157]: The recent change in the behaviours of `simp_rw` and simp to "fail if no progress" made this proof less compact. You will notice from the changes I have made based on this suggestion that the 4 `simp_rw` now are almost identical, and if simp could just skip some of the lemmas it cannot apply these 4 proofs could be squashed together.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 21 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean]: OK

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 23 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:191]: It will require a bit more unfolding/rewriting.
Anyway I made this change

File: Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean [hunk 46]
```diff
@@ -0,0 +1,107 @@
...
+  let eᵣ' : {i // (isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃ Fin A.rank :=
+    Fintype.equivFinOfCardEq (by rw [rank_eq_card_pos_eigs_self_mul_conj_transpose])
+  let eₘᵣ : {i // ¬(isHermitian_mul_conjTranspose_self A).eigenvalues i ≠ 0} ≃ Fin (M - A.rank) :=
+    Fintype.equivFinOfCardEq (by rw [Fintype.card_subtype_compl, Fintype.card_fin,
+      rank_eq_card_pos_eigs_self_mul_conj_transpose])
+  exact Equiv.trans em.symm  (Equiv.sumCongr eᵣ' eₘᵣ)
+
+/-- When the eigenvalues of the matrix Aᴴ⬝A are partitioned using
+`equiv_fin_width_eigs_conjTranspose_mul_self` i.e. into non-zero and zero eigenvalues, any element
+from the second partition is obivuosly zero! -/
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean:78]:
```suggestion
from the second partition is obviously zero! -/
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean [hunk 47]
```diff
@@ -0,0 +1,107 @@
...
+  simp only [ne_eq, Equiv.symm_trans_apply, Equiv.symm_symm, Equiv.coe_fn_symm_mk, Sum.elim_inr,
+    Equiv.sumCompl_apply_inr]
+  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conj_transpose_mul_self]
+  exact Iff.mp Function.nmem_support ((eₙᵣ.symm i).prop)
+
+/-- When the eigenvalues of the matrix A⬝Aᴴ are partitioned using
+`equiv_fin_height_eigs_mul_conjTranspose` i.e. into non-zero and zero eigenvalues, any element from
+the second partition is obivuosly zero! -/
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean:93]:
```suggestion
the second partition is obviously zero! -/
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 48]
```diff
@@ -0,0 +1,468 @@
...
+  apply (ne_of_gt (Real.sqrt_pos.2 (eig_vals_ne_zero_pos _ _)))
+
+lemma svdσ_inv_mapK (A : Matrix (Fin M) (Fin N) 𝕂) :
+    (map (A.svdσ) (algebraMap ℝ 𝕂))⁻¹ = (map (A.svdσ)⁻¹ (algebraMap ℝ 𝕂)) := by
+  apply inv_eq_left_inv
+  rw [← map_mul, nonsing_inv_mul]
+  simp only [map_zero, _root_.map_one, map_one]
+  apply IsUnit_det_svdσ
+
+lemma U₁_conjTranspose_mul_U₁ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdU₁ᴴ  *  A.svdU₁ = 1 := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:381]: I see that a lot of these multiplications are double-spaced.
```suggestion
lemma U₁_conjTranspose_mul_U₁ (A : Matrix (Fin M) (Fin N) 𝕂) : A.svdU₁ᴴ * A.svdU₁ = 1 := by
```
I think that with a regex you can search for double spaces that are preceded by a non-space. Please make them single spaced.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 49]
```diff
@@ -0,0 +1,479 @@
...
+      Real.sqrt ((isHermitian_transpose_mul_self A).eigenvalues i)))
+
+/-- The left eigenvectors of a matrix A corresponding to its non-zero eigenvaules, obtained as the
+image of the corresponding right eigenvectors. The transformation is given by the matrix itself and
+scaling by the singular values. -/
+noncomputable def svdU₁ (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin M) (Fin A.rank) 𝕂 :=
+  A  *  A.svdV₁  *  (A.svdσ.map (algebraMap ℝ 𝕂))⁻¹
+
+/-- The left eigenvectors of a matrix A corresponding to its non-zero eigenvaules, obtained directly
+from the eigendecomposition of the AAᴴ matrix. These do NOT share the same ordering as `svdU₁`. -/
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:112]: U1' (with dash) is kind of a duplicate but it makes proving the `reduced_spectral_theroem'` (with dash) much easier. 
There are two differences between U1 and U1':

1. They do not share the same order because of how mathlib defines eigenvalues (some arbitrary order). Your proposed reordering is good for this case.
2. With repeated/duplicate eigenvalues each eigenvalue has an eigenspace with Dim > 1 and the eigenvectors can be basis of that eigenspace. Hence the contents of the eigenvector matrices need not be the same, even after disregarding permutations. Hence no reordering will clean this second issue.
 
Hence why I chose to have two definitions.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 50]
```diff
@@ -0,0 +1,479 @@
...
+block is the diagonal matrix `svdσ` above but permuted by the same arbitrary order relating svdU₁
+and svdU₁' above . -/
+noncomputable def svdS' (A : Matrix (Fin M) (Fin N) 𝕂) :
+    Matrix ((Fin A.rank) ⊕ (Fin (M - A.rank))) ((Fin A.rank) ⊕ (Fin (M - A.rank))) ℝ :=
+  (reindex (eigenRowEquiv A) (eigenRowEquiv A))
+    (diagonal (isHermitian_mul_conjTranspose_self A).eigenvalues)
+
+lemma U_columns' (A : Matrix (Fin M) (Fin N) 𝕂) :
+  ((reindex (Equiv.refl (Fin M)) (eigenRowEquiv A))
+    (isHermitian_mul_conjTranspose_self A).eigenvectorMatrix) = fromColumns A.svdU₁' A.svdU₂ := by
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:153]: My experience with mathlib names so far is that they are difficult to remember (sometimes even for the people who wrote the lemma them unless they are in the same "frame" of mind they where in at time of writing). One possible reason for this is because I do not understand how it works.

I made this particular change. but how do I arrive at it, to save future reviewers some time?
The naming convention document here https://leanprover-community.github.io/contribute/naming.html
How do I reach from the theorem to the name you came up with by following that documnet (or others if there are any)?

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 51]
```diff
@@ -0,0 +1,479 @@
...
+
+/-- The right eigenvectors of a matrix A corresponding to the zero eigenvaules of the matrix AᴴA -/
+noncomputable def svdV₂ (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin N) (Fin (N - A.rank)) 𝕂 :=
+  ((reindex (Equiv.refl (Fin N)) (eigenColumnEquiv A))
+    (isHermitian_transpose_mul_self A).eigenvectorMatrix).toColumns₂
+
+/-- The diagonal matrix containing the non-zero eigenvalues of matrix Aᴴ * A These are also the
+squares of the non-zero singular values of the matrix A. Note that these are the same elements as in
+`svdμ'` but permuted in some arbitrary order -/
+noncomputable def svdμ (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin A.rank) (Fin A.rank) ℝ :=
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:79]: ## Question: @Vierkantor @eric-wieser 
Is there a way for me to see how the doc strings and module docs will appear after they are rendered. That will help me in writing better docs!

## Comment
I assume module documentation means the "big comment at the top of the file". I added the following:

Recall that `AᴴA` and `AAᴴ` are Hermitian matrices `docs#Matrix.isHermitian_transpose_mul_self` and `docs#Matrix.isHermitian_mul_conjTranspose_self`. Hence, they are diagonalizable/decomposable as `AᴴA = V E Vᴴ` with `E` a matrix of eigenvalues of `AᴴA`. We can apply the reordering/partitioning from the last paragraph `eigenColumnEquiv` to the columns of `V`, rows and columns of `E` and rows of `Vᴴ`with out changing the value of the product `VEVᴴ`. With this in mind we have:
    $$AᴴA = V × E × Vᴴ = [V₁ V₂] [μ 0; 0 0] [V₁ᴴ; V₂ᴴ] = V₁μV₁ᴴ$$
where the matrix `μ` is a diagonal matrix containing the non-zero eigenvalues of the matrix AᴴA ordered so as to correspond to the eigenvectors of AᴴA. This is given the name `V₁_mul_μ_mul_V₁_conjTranspose` **reduced spectral theorem, right eigenvectors** below.

We can repeat a similar procedure with `AAᴴ = UEUᴴ` and obtain:
    $$AAᴴ = U × E × Uᴴ = [U₁ U₂] [μ' 0; 0 0] [U₁ᴴ; U₂ᴴ] = U₁μ'U₁ᴴ$$
where the matrix `μ'` is a diagonal matrix containing the non-zero eigenvalues of the matrix AAᴴ ordered so as to correspond to the eigenvectors of AAᴴ. This is given the name
`U₁'_mul_μ'_mul_U₁'_conjTranspose` **reduced spectral theroem, left eigenvectors**

Note that `μ` and `μ'` contain the same values in different orders.

[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:79]: Note I also removed S and S` and used $\xi$ since it looks more like $\Sigma$

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 26 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:243]: I got rid of S and now have `μ_block` and `μ'_block`

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 32 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:333]: If I understand what you are suggesting I don't think this will work directly as you describe it. The indirect effect of the double reindexing I did is to hide the inner prop (which says the eigenvalue ne zero). Recall that we reindex first from `Fin N` to `{i // eig ~= 0} \oplus {i // eig = 0}` then we reindex again to Fin r \oplus Fin (N - r)
I think the cost of getting it back from under these definitions will be longer than what I am doing now.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 52]
```diff
@@ -0,0 +1,479 @@
...
+noncomputable def svdμ' (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin A.rank) (Fin A.rank) ℝ :=
+  (reindex
+    (finRankEquivEigsMulConjTranspose A).symm
+    (finRankEquivEigsMulConjTranspose A).symm)
+  (diagonal (fun (i : {a // (isHermitian_mul_conjTranspose_self A).eigenvalues a ≠ 0}) =>
+      (isHermitian_mul_conjTranspose_self A).eigenvalues i))
+
+/-- The diagonal matrix containing the non-zero singular values of matrix A. These are also the
+square roots of the non-zero eigenvalues of the matrix Aᴴ * A. -/
+noncomputable def svdσ (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin A.rank) (Fin A.rank) ℝ :=
```
[the remark this answers is not in the document]
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:125]: I added the following:

Note that we chose (arbitrarily) to favor the right-eigenvector order. Hence, the matrix `svdσ` is also the diagonal matrix whose entries are the square roots of the diagonals of `svdμ`. That is we define `svdξ = [svdσ, 0; 0 0]` with appropriate dimensions for the zero matrices. Further the following equation holds: `svdξᵀ * svdξ = [μ, 0; 0 0]`

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 31 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:313]: Than would be the direct combination of  [Matrix.PosSemidef.eigenvalues_nonneg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/PosDef.html#Matrix.PosSemidef.eigenvalues_nonneg) and [Matrix.posSemidef_conjTranspose_mul_self](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/PosDef.html#Matrix.posSemidef_conjTranspose_mul_self).

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:313]: I mean it is exactly the following:

```lean
lemma eig_vals_ne_zero_pos' (A : Matrix (Fin M) (Fin N) 𝕂) : 
    ∀ i, 0 ≤ ((isHermitian_transpose_mul_self A).eigenvalues i) := 
  Matrix.PosSemidef.eigenvalues_nonneg (Matrix.posSemidef_conjTranspose_mul_self _)
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 32 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:329]: On trying a bit harder it seems I can access the underlying proof which appears in InfoView as 
```
apply (Real.sqrt_ne_zero _).mpr
apply ((finRankEquivEigsConjTransposeMulSelf A).1 i).prop
```

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 53]
```diff
@@ -0,0 +1,448 @@
...
+
+This file provides the SVD theorem which decomposes a real/complex matrix into left
+eigenvectors, singular values block diagonal matrix and right eigenvectors.
+
+Any matrix A (M × N) with rank r = A.rank and with elements in the field ℝ or ℂ can be decomposed
+into the product of three matrices `A = UξVᴴ` where:
+
+  * U: an `M × M` matrix containing the left eigenvectors of the matrix
+  * ξ: an `M × N` matrix with an `r × r` block in the upper left corner with nonzero singular values
+  * V: an `N × N` matrix containing the right eigenvectors of the matrix
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:21]: I am completely confused by this docstring. To me, singular values of a matrix `A` have to do with the successive maximum expansion rates of the matrix, so I don't see how left or right eigenvectors of the matrix `A` would appear in a singular value decomposition.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 54]
```diff
@@ -0,0 +1,448 @@
...
+
+To make relating left eigenvectors to right eigenvectors easier we define U₁ = AV₁σ⁻¹ while U₂ is
+obtained from the eigenvectors of (AAᴴ). This avoid a lengthy reindexing operation with many proofs.
+The vectors in U₂ have no such issue since they are multiplied by zero singular values anyway.
+
+## Tags
+Singular Value decomposition, SVD
+-/
+
+variable {𝕂 : Type*} [IsROrC 𝕂] [DecidableEq 𝕂]
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:86]: Why did you put a `[DecidableEq 𝕂]` assumption?

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean [hunk 55]
```diff
@@ -0,0 +1,448 @@
...
+variable {M N : ℕ}
+
+open Matrix BigOperators
+
+namespace Matrix
+
+/-- The right eigenvectors of a matrix A corresponding to its non-zero eigenvalues -/
+noncomputable def svdV₁ (A : Matrix (Fin M) (Fin N) 𝕂) : Matrix (Fin N) (Fin (A.rank)) 𝕂 :=
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:94]: the names in mathlib have to convey a meaning. In general, they are longer and more expressive than the names we would use in papers (which are just notations), because they have to be compatible with the whole library.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 54 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:86]: Probably `IsROrC` should `extend DecidableEq`, since we already have `DecidableEq Real` and `DecidableEq Complex` instances.

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:86]: Throughout the PR you will find comparisons against zero for example:

```lean
lemma rank_eq_card_pos_eigs_conjTranspose_mul_self (A: Matrix (Fin M) (Fin N) 𝕂) :
    A.rank = Fintype.card {i // (isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} := by
  rw [← rank_conjTranspose_mul_self, IsHermitian.rank_eq_card_non_zero_eigs]
```

My understanding is this requires decidable equality to work.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 53 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:21]: 1. The singular values for me are square roots of eigenvalues. They are also what remains of the matrix transformation if we rotate the source and target vector spaces until the transformation is diagonal.

2. The Singular Value Decomposition is a generalization of the Eigendecompositon. We sometimes abuse terminology and call the left singular vectors left eigenvectors and similarly for the right singular vectors.

If we write left singular vector in place of left eigenvectors and right singular vector in place of right eigenvectors, does that work for you?

```
* U: an `M × M` matrix containing the left singular vector of the matrix
* ξ: an `M × N` matrix with an `r × r` block in the upper left corner with nonzero singular values
* V: an `N × N` matrix containing the right singular vectorof the matrix
 ```

3. I did not define a function for singular values. I only defined the matrix of singular values which has the same dimensions as the original matrix A. It is also partitioned such that it is upper block of size $r \times r$ contains the $r$ non-zero singular values.

I have no Idea what the maximum expansion rate of a matrix is.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 32 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean]: So I guess I was able to implement your suggestion. The difference is now I have this term three times:

```lean
  (Real.sqrt_ne_zero (eigenvalues_conjTranspose_mul_self_nonneg _)).2
      ((finRankEquivEigsConjTransposeMulSelf A).1 i).prop)
```
In terms of your suggestion it is fewer by 2 lines discounting the lemmas that will be moved into PR #7312 
So I will go with it

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 54 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:86]: #7315 looks to be a good solution here, as it seems we had this pattern elsewhere too.

File: Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean [hunk 56]
```diff
@@ -0,0 +1,107 @@
...
+  let eₙᵣ : {i // ¬(isHermitian_transpose_mul_self A).eigenvalues i ≠ 0} ≃ Fin (N - A.rank) := by
+    apply Fintype.equivFinOfCardEq
+    rw [Fintype.card_subtype_compl, Fintype.card_fin, rank_eq_card_pos_eigs_conjTranspose_mul_self]
+  exact Iff.mp Function.nmem_support ((eₙᵣ.symm i).prop)
+
+/-- When the eigenvalues of the matrix A⬝Aᴴ are partitioned using
+`equiv_fin_height_eigs_mul_conjTranspose` i.e. into non-zero and zero eigenvalues, any element from
+the second partition is obviously zero! -/
+@[simp]
+lemma eigen_eigenRowEquiv_inr (A: Matrix (Fin M) (Fin N) 𝕂) (i: Fin (M - A.rank)) :
```
Comment (alexjbest) [inline Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean:95]:
```suggestion
lemma eigen_eigenRowEquiv_inr (A : Matrix (Fin M) (Fin N) 𝕂) (i : Fin (M - A.rank)) :
```
and in all the lemmas / variables lines in this file

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Reindex.lean]: Done!

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 30 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean]: OK I added a version for U1 (without the dash/prime). It is called `U₁_mul_μ_mul_U₁_conjTranspose`

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 51 above)
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean:106]: > Is there a way for me to see how the doc strings and module docs will appear after they are rendered. That will help me in writing better docs!

I don't know of an official, easy way to do this. But docstrings are "just" markdown, so if you would like a preview, you can write it in a `.md` file. I think VS Code can preview markdown by default, or at least it should be easy to find an extension for this. (I use Emacs for this purpose.)

> I assume module documentation means the "big comment at the top of the file".

Precisely!

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 42 above)
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean]: That's indeed slightly annoying. However, you can still `open Matrix` and then `SVD.V₁ A` and `A.SVD.V₁` don't really make any difference. Here I would really advocate the consistency with `LDL` and the neater organisation over the notational advantages (especially since we're already quite far away from standard maths notation). So I'm going to insist on the `SVD` namespace.

File: Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean (hunk 50 above)
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Matrix/SVD/Defs.lean]: The important part for this question is the section on [Identifiers and theorem names](https://leanprover-community.github.io/contribute/naming.html#identifiers-and-theorem-names), especially the part that starts

> Often the name of theorem simply describes the conclusion:

The algorithm described there for coming up with a name works essentially as follows.

First write down the names in the conclusion, joined by underscores.
> `reindex_refl_Fin_eigenRowEquiv_isHermitian_mul_conjTranspose_self_eigenvectorMatrix_eq_fromColumns_svdU₁'_svdU₂`
If this name is clear and short enough, you're done! Otherwise, you can:
 * shorten by eliminating parts that wouldn't be confusing to leave out. For example `eigenRowEquiv` is about the eigenvalues of `A⬝Aᴴ` so we can leave out the `isHermitian_mul_conjTranspose_self` part below. Similarly if we don't do anything with the columns we might as well leave out `refl_Fin`:
> `reindex_eigenRowEquiv_eigenvectorMatrix_eq_fromColumns_svdU₁'_svdU₂`
 * shorten by eliminating the right hand side of the equality (as a rule of thumb the right hand side is easy to guess: generally you want one way to write things, so `B` should be obvious from `A = B`)
> `reindex_eigenRowEquiv_eigenvectorMatrix`
 * expand by adding hypotheses, separated by `_of_`. Imagine if this result required `A` to be nonzero, then we'd write `reindex_eigenRowEquiv_eigenvectorMatrix_of_ne_zero`.

Following the naming convention really is important because experienced Mathlib users can find results in a different part of the library by just writing what they think this result should be called. It cost much less to guess a name than to switch to your browser and type a query into a search engine like Loogle.

In the end it's going to be a matter of taste which parts to emphasize and which to leave out; there is no one right answer. But following the naming convention is very helpful.

**Comment by Vierkantor** [comment]
Sorry for the weeks of barely any contact. I finally have some real time to invest in reviewing. I hope I addressed all the open questions you still had.

We've been discussing this PR with the mathlib reviewer team, and I'm afraid that we concluded that this result still needs quite some work. Namely, we find it important to get the decomposition also for homomorphisms (specifically, elements of `Module.End`), and it seems better to first prove SVD for homomorphisms, and then derive the matrix result from that. Basically, the same approach as we already have for eigenvalues in mathlib.

**Comment by MohanadAhmed** [comment]
> Sorry for the weeks of barely any contact. I finally have some real time to invest in reviewing. I hope I addressed all the open questions you still had.
> 
> We've been discussing this PR with the mathlib reviewer team, and I'm afraid that we concluded that this result still needs quite some work. Namely, we find it important to get the decomposition also for homomorphisms (specifically, elements of `Module.End`), and it seems better to first prove SVD for homomorphisms, and then derive the matrix result from that. Basically, the same approach as we already have for eigenvalues in mathlib.

Can you spell out what this means for this PR?

**Comment by j-loreaux** [comment]
@MohanadAhmed if you're interested in reviving this PR, let's discuss the plan on the [Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/PR.20.236042.20Singular.20Value.20Decomposition/near/407430848)

**Comment by vihdzp** [comment]
It seems to me that this material is subsumed by the work in #32126.

**Comment by vihdzp** [comment]
Closing, since my impression is that there is active, orthogonal work towards a more general version of SVD by @nielsvoss.
